Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
Colonoscopy with epinephrine injection and clipping. 

 
History of Present Illness:
___ y.o F with PMH of DCIS who underwent colonscopy on ___
with polypectomy, presenting with BRBPR, likely representing 
post
polypectomy bleed. She underwent colonoscopy today at 9 AM with
removal of a 3 cm polyp that was diagnosed on colonoscopy in
___. She started having bright red blood in her stool at noon
when she got home. She had 3 mildly bloody bowel movements that
were progressively getting worse. In the emergency department 
she
has had 3 bloody bowel movements that are approximately 50
minutes apart. She is not having dizziness, lightheadedness or
chest pain. No shortness of breath. She is not on
anticoagulation. She has mild cramping abdominal pain before
defecation. No vomiting. No dysuria/hematuria/frequency. No
abnormal vaginal discharge or bleeding.

In the ED, initial VS were 99.5 87 124/76 16 100% RA.
Labs notable for CBC with  H/H of 13.6/43.5. BMP showed Cl 109,
HCO3 21, otherwise normal with Cr 0.7. Phos was 2.0.
GI saw the patient and recommended repeat colonoscopy tomorrow
morning and initiating moviprep at 3 AM.

Upon arrival to the floor, the patient tells the story as
follows. She reports she had the procedure today, went home, and
had 3 bright red bloody bowel movements that were liquid only.
Since being in the ED, she had three more. She reports that she
has no abdominal pain, but infrequent mild abdominal cramps. She
feels thirsty and a little bit weak since she hasn't eaten, but
specifically denies lightheadedness. She otherwise denies recent
fevers, chills, recent illnesses, chest pain, or shortness of
breath. She denies recent aspirin or other blood thinners.
 
Past Medical History:
- GERD
- Ductal Carcinoma In Situ s/p lumpectomy and radiation
- Hysterectomy
- Tonsillectomy
- Chronic constipation
 
Social History:
___
Family History:
Denied ___ of bleeding disorders or colonic polyps.
 
Physical Exam:
General: Patient appears pale and slightly weak but overall 
well.
Alert, oriented and in no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP low, no LAD appreciated
Lungs: Clear to auscultation bilaterally, moving air well and
symmetrically, no wheezes, rales or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality,
no murmurs, rubs or gallops appreciated
Abdomen: soft, non-tender, non-distended, normoactive bowel
sounds throughout, no rebound or guarding
Ext: Warm, well perfused, full distal pulses, no clubbing,
cyanosis or edema    
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly
intact in bilateral UE and ___, symmetric
 
Pertinent Results:
___ 01:00AM BLOOD WBC: 9.2 RBC: 3.39* Hgb: 10.5* Hct: 32.5*
MCV: 96 MCH: 31.0 MCHC: 32.3 RDW: 12.1 RDWSD: 42.___ 
___ 06:55AM BLOOD WBC: 7.1 RBC: 3.41* Hgb: 10.7* Hct: 33.0*
MCV: 97 MCH: 31.4 MCHC: 32.4 RDW: 12.4 RDWSD: 43.___ 
___ 06:55AM BLOOD Glucose: 76 UreaN: 6 Creat: 0.6 Na: 145 
K:
4.3 Cl: 116* HCO3: 16* AnGap: 13 
___ 06:55AM BLOOD Calcium: 7.8* Phos: 2.0* Mg: 1.9 
___ 03:47PM BLOOD Hgb: 8.6* calcHCT: 26 

___ 05:00PM BLOOD WBC: 7.4 RBC: 4.44 Hgb: 13.6 Hct: 43.5
MCV: 98 MCH: 30.6 MCHC: 31.3* RDW: 12.2 RDWSD: 44.___ 
___ 05:00PM BLOOD Neuts: 66.1 Lymphs: ___ Monos: 8.0 Eos:
0.8* Baso: 0.5 Im ___: 0.3 AbsNeut: 4.87 AbsLymp: 1.79 AbsMono:
0.59 AbsEos: 0.06 AbsBaso: 0.04 
___ 05:00PM BLOOD ___: 11.5 PTT: 33.2 ___: 1.1 
___ 05:00PM BLOOD Glucose: 87 UreaN: 7 Creat: 0.7 Na: 142 
K:
4.8 Cl: 109* HCO3: 21* AnGap: 12 
___ 05:00PM BLOOD Calcium: 9.5 Phos: 2.0* Mg: 2.3 

Colonoscopy ___
 A single sessile 30 mm non-bleeding polyp of benign appearance
was found in the ascending colon. Endomucosal resection was
undertaken using a snare. Dilute methylene blue was used to
create a submucosal cushion. The polyp lifted nicely. EMR was
performed in 5 pieces with excellent result. APC was applied at
the resected margines to ensure complete tissue destruction.
Three endoclips were successfully applied to the ascending colon
for the purpose of tissue positioning.

Polyp (30 mm) in the ascending colon. (Additional intervention,
endoclip)

Colonoscopy ___
Fresh blood and clots were seen throughout the colon.
Post-polypectomy site was seen in the ascending colon. The
previously placed endoclips were in good position, but there was
active bleeding seen in the area between two of the endoclips.
Epinephrine ___ (8cc) injection was successfully applied for
hemostasis. Five additional endoclips were placed for 
hemostasis.
There was no bleeding at the end of the procedure. The remainder
of the colon was not closely examined given the recent
colonoscopy. 

 
Brief Hospital Course:
___ yo woman with history of DCIS who underwent colonoscopy on 
___ with polypectomy, who represented with BRBPR, 
suggestive of post polypectomy bleed.

# Acute blood loss anemia
# BRBPR, acute post-polypectomy lower GI Bleed: 
Patient presented with multiple episodes of BRBPR following 
colonoscopy with polypectomy. Repeat Colonoscopy consistent with 
post-polypectomy bleed s/p clipping and Epi injection. She had 
recurrent bleeding following repeat color with associated drop 
in Hb to 6.5. She received 2 units pRBCs with an overappropriate 
bump in response. GI felt most likely reflecting prior bleed and 
not post ___ acute rebleeding. She remained hemodynamically 
stable and Hb remained stable for >36 hours post transfusion and 
she was only passing old coagulated blood without any new acute 
bright red blood in stool. She was tolerating a regular diet 
without issues prior to discharge.
   
# Hypophosphatemia. Admission phosphorous of 2.0, likely in the 
setting of decreased oral intake. Patient was provided with oral 
phosphorous repletion.
  
# History of DCIS s/p localized excision and radiation. She 
completed a five year course of tamoxifen.
   
# Chronic constipation: Continued miralax prn upon discharge. 
  
# GERD: Continued omeprazole 20 mg daily

Transitional issue:
- Needs repeat ___ in 6 months, patient is aware and GI is 
arranging.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY  
2.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bright red blood per rectum
Acute post-polypectomy lower GI Bleed 
Acute blood loss anemia
Hypophosphatemia
History of DCIS
Chronic constipation
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
  
___ were admitted with bleeding after your colonoscopy with 
polypectomy. Gastroenterology performed another colonoscopy and 
stopped the bleeding. ___ tolerated a diet.
   
It was a pleasure meeting ___, 
Your ___ Care team
 
Followup Instructions:
___